US07579351B2
(R)-8-(3-Chloro-propoxy)-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 2, intermediate, from (R)-8-hydroxy-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one, potassium carbonate and 1-bromo-3-chloropropane, to give the title compound as a light yellow solid (56%).

reactant | (R)-8-hydroxy-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | OC1=CC=2C=C3N(C2C=C1)[C@@H](CNC3=O)C | C12H12N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | (R)-8-(3-Chloro-propoxy)-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 56% | ClCCCOC1=CC=2C=C3N(C2C=C1)[C@@H](CNC3=O)C | C15H17ClN2O2
